US09399640B2
Step 1. 5-Bromo-4-methoxy-1-methyl-1,3-dihydro-2H-benzimidazol-2-one
A 1.0 M solution of hydrogen chloride in water (2.3 mL, 2.3 mmol) was added to a suspension of iron (1.28 g, 23.0 mmol) (<10 μm) in ethanol (25.1 mL) and the resultant suspension was stirred at 60° C. for 2 h. The reaction mixture was then cooled to 55-60° C. and treated with a 5.0 M solution of ammonium chloride in water (3950 μL, 19.8 mmol), followed by the addition of 4-bromo-3-methoxy-N-methyl-2-nitroaniline (1.20 g, 4.60 mmol) as a solid. The flask containing 4-bromo-3-methoxy-N-methyl-2-nitroaniline was rinsed with ethanol (3.75 mL) and the solution was added to the reaction mixture. The resultant reaction mixture was stirred at 60-65° C. for 2 h, after which time the reaction mixture was diluted with ethyl acetate (100 mL), treated with anhydrous magnesium sulfate, stirred for 10 min and then filtered through a pad of Celite. The filtrate was concentrated to dryness in vacuo and the resulting solid was used immediately without further purification. The crude bis-aniline was dissolved in tetrahydrofuran (32.0 mL), treated with N,N-carbonyldiimidazole (1.86 g, 11.5 mmol) and stirred at RT overnight. The reaction mixture was diluted with ethyl acetate and water. Layers were separated and the organic layer was washed with brine, dried with magnesium sulfate, filtered, and concentrated in vacuo to give the crude product. Purification by flash column chromatography (100% hexanes to 30% EtOAc/hexanes to 100% EtOAc) gave the desired product (1.05 g, 89%) as a solid. LCMS calculated for C9H10BrN2O2 (M+H)+: m/z=257.0, 259.0. found: 257.1, 259.1.

reactant | hydrogen chloride | Cl | ClH
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | 4-bromo-3-methoxy-N-methyl-2-nitroaniline | 4.60 mmol, 1.20 g | BrC1=C(C(=C(NC)C=C1)[N+](=O)[O-])OC | C8H9BrN2O3
reactant | magnesium sulfate | S(=O)(=O)([O-])[O-].[Mg+2]
reactant | N,N-carbonyldiimidazole | 11.5 mmol, 1.86 g | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
solvent | ethanol | 25.1 mL | C(C)O | C2H6O
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
catalyst | iron | 23.0 mmol, 1.28 g | [Fe] | Fe
solvent | water | 19.8 mmol, 3950 μL | O | H2O
solvent | water | 2.3 mmol, 2.3 mL | O | H2O
product | 5-Bromo-4-methoxy-1-methyl-1,3-dihydro-2H-benzimidazol-2-one | 1.05 g, 89% | BrC1=C(C2=C(N(C(N2)=O)C)C=C1)OC | C9H9BrN2O2
